US06545016B1
A solution of gave N1-(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)-2-methylpropane-1,2-diamine (3.14 g, 10.9 mmol) in 50 mL of CH2Cl2 was cooled to 0° C. under N2 and treated with triethylamine (2.84 mL, 20.4 mmol) and acetic anhydride (1.01 mL, 10.7 mmol). After stirring for 2 h, the reaction was quenched by the addition of saturated aqueous NaHCO3. CH2Cl2 (100 mL) was added and the organic layer was separated. The organic layer was then washed with cold H2O (2×) and brine. The organic portion was dried with Na2SO4 and concentrated to give N-{2-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]-1,1-dimethylethyl}acetamide (2.80 g) as a yellow foam.

reactant | N1-(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)-2-methylpropane-1,2-diamine | 10.9 mmol, 3.14 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCC(C)(N)C)C)C | C11H17ClN4O2
reactant | triethylamine | 20.4 mmol, 2.84 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 10.7 mmol, 1.01 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]-1,1-dimethylethyl}acetamide | 2.80 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCC(C)(C)NC(C)=O)C)C | C13H19ClN4O3
